US04287335
In 20 ml of 2-ethoxyethyl alcohol, 1.65 g of sodium hydroxide and 4.88 g of m-hydroxybenzaldehyde were dissolved by heating. The resultant solution and 7.4 g of bromoacetaldehyde dimethyl acetal were refluxed for 22 hours. Then, the reaction solution was combined with 50 ml of benzene, washed with water, and further washed with an aqueous sodium hydroxide solution until total disappearance of the unaltered portion of hydroxybenzaldehyde and thereafter dried with anhydrous potassium carbonate. By distilling the resultant aqueous solution, there was obtained 3.6 g of m-(2,2-dimethoxyethoxy)benzaldehyde with a boiling point of 138° C./3 mmHg.

reactant | sodium hydroxide | 1.65 g | [OH-].[Na+]
reactant | bromoacetaldehyde dimethyl acetal | 7.4 g | COC(CBr)OC | C4H9BrO2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | 2-ethoxyethyl alcohol | 20 ml | C(C)OCCO | C4H10O2
product | m-(2,2-dimethoxyethoxy)benzaldehyde | 3.6 g | COC(COC=1C=C(C=O)C=CC1)OC | C11H14O4
